US08003656B2
A. 1-(4-Bromophenyl)-9-methyl-2-(2,3,4-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one (Compound 1)
1-(4-Bromophenyl)-2-chloro-9-methyl-1,9-dihydro-6H-purin-6-one (150 mg, 0.4417 mmol) and 2,3,4-trifluorophenol (130.8 mg, 0.8834 mmol) are added to a vial, and the sealed mixture is heated with stirring at 140° C. for 23 h. Silica gel column chromatography (MeOH:CH2Cl2=0.5:99.5) gives the title compound as a white solid. 1H NMR (400 MHz, CDCl3) 7.66 (3H, m), 7.24 (2H, m), 7.00 (2H, m), 3.58 (3H, s). MS (M+1): 451.08; RT=1.31 min. The IC50 determined as described in Example 6 is 100 nanomolar or less.

reactant | 1-(4-Bromophenyl)-2-chloro-9-methyl-1,9-dihydro-6H-purin-6-one | 0.4417 mmol, 150 mg | BrC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)Cl | C12H8BrClN4O
reactant | 2,3,4-trifluorophenol | 0.8834 mmol, 130.8 mg | FC1=C(C=CC(=C1F)F)O | C6H3F3O
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromophenyl)-9-methyl-2-(2,3,4-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one | BrC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)OC1=C(C(=C(C=C1)F)F)F | C18H10BrF3N4O2
